US07687508B2
To a solution of benzyl (S)-1-((1S,2R,4R)-2-formamido-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (50 mg, 0.116 mmol) in methanol (3 mL) was added 10% Pd/C (40 mg of 50% wet catalyst). The flask was evacuated and back-filled with hydrogen from a hydrogen balloon. The mixture was stirred at room temperature for 1 h and the catalyst was removed by filtration. The filtrate was concentrated in vacuo to provide N-((1R,2S,5R)-2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(isopropyl(methyl)amino)cyclohexyl)formamide (35 mg, 100%) which was taken on to the next step without further purification. LC/MS found [M+H]+=297.

reactant | benzyl (S)-1-((1S,2R,4R)-2-formamido-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 0.116 mmol, 50 mg | C(=O)N[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C23H34N4O4
solvent | methanol | 3 mL | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | N-((1R,2S,5R)-2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(isopropyl(methyl)amino)cyclohexyl)formamide | 35 mg, 100% | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)NC=O)=O | C15H28N4O2
